US04017638
The N-(4-chlorophenylsulphonyl)-iminodithiocarbonic acid-S,S-dimethyl ester (1000 g) obtained in the manner described is suspended in 1000 ml of dichloromethane, and 290 ml of sulphonyl chloride (3.6 moles) is added dropwise to the suspension, whereupon a yellow solution is obtained with generation of SO2. This solution is heated for about 2 hours at a temperature of 35° C. The solvent as well as the formed methanesulphonyl chloride and unreacted sulphonyl chloride is distilled off in a Rotovap, and the crystallised residue is taken up in hexane. After filtration with suction there is obtained N-(4-chlorophenysulphonyl)-S-methyl-iminothiocarbonic acid chloride: m.p. 86°-89° C.

reactant | N-(4-chlorophenylsulphonyl)-iminodithiocarbonic acid-S,S-dimethyl ester | 1000 g | CS(C(SC)=O)=NS(=O)(=O)C1=CC=C(C=C1)Cl | C9H10ClNO3S3
reactant | sulphonyl chloride | 3.6 moles, 290 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | dichloromethane | 1000 ml | ClCCl | CH2Cl2
product | N-(4-chlorophenysulphonyl)-S-methyl-iminothiocarbonic acid chloride | ClC1=CC=C(C=C1)S(=O)(=O)N=S(=C(Cl)Cl)C | C8H8Cl3NO2S2
